US04596819
A solution of chloroacetyl chloride, 25.64 g (0.227 mol), in 57 ml of acetone is added dropwise with stirring to a solution of L-leucinol, 26.63 g (0.227 mol), and sodium acetate, 37.24 g (0.454 mol), in a mixture of 340 ml of acetone and 170 ml of water at 0°-5° C. The mixture is stirred and allowed to reach room temperature over two hours, the solvent is evaporated in vacuo and the residue is suspended in 250 ml of chloroform and washed with water, 2×300 ml. The chloroform layer is separated, dried over sodium sulfate, evaporated in vacuo and the residue is purified by chromatography using silica gel and eluting with dichloromethane-methanol (95:5) to give (S)-2-chloro-N-[1-(hydroxymethyl)-3-methylbutyl]acetamide, 28 g; [α]D25 -32.6° (c 0.52, methanol).

reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | L-leucinol | N[C@@H](CC(C)C)CO | C6H15NO
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | acetone | 57 ml | CC(=O)C | C3H6O
solvent | acetone | 340 ml | CC(=O)C | C3H6O
solvent | water | 170 ml | O | H2O
product | (S)-2-chloro-N-[1-(hydroxymethyl)-3-methylbutyl]acetamide | ClCC(=O)N[C@@H](CC(C)C)CO | C8H16ClNO2
